US07579469B2
A mixture of (4-methoxy-3,5-dimethylpyridin-2-yl)methanol (1.0 g) and anhydrous lithium chloride (0.76 mg) in dimethylformamide (10 mL) was heated at reflux for 43 hours. Sodium hydroxide solution (10% w/v, 30 mL) was then added and the resulting solution was extracted twice with diethyl ether. The aqueous phase was neutralized with 1N HCl (21 mL) and the volatiles were removed in vacuo. The resulting solid was purified by column chromatography with silica gel (eluted with 10% methanol-methylene chloride). Product-rich fractions were combined, concentrated in vacuo, and triturated with chloroform-acetonitrile (4:1) to afford the product, 2-hydroxymethyl-3,5-dimethylpyridin-4-ol, as a white solid (0.78 g).

reactant | (4-methoxy-3,5-dimethylpyridin-2-yl)methanol | 1.0 g | COC1=C(C(=NC=C1C)CO)C | C9H13NO2
reactant | lithium chloride | 0.76 mg | [Cl-].[Li+]
reactant | Sodium hydroxide | 30 mL | [OH-].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-hydroxymethyl-3,5-dimethylpyridin-4-ol | OCC1=NC=C(C(=C1C)O)C | C8H11NO2
